US08754209B2
To a stirred solution of 6-(4-nitrophenyl)-1H-indazole-3-carboxylic acid (140 mg, 0.5 mmol), methyl amine hydrochloride (45 mg, 0.6 mmol), HOBt (80 mg, 0.6 mmol), and triethylamine (0.3 Ml, 2 mmol) in N,N-dimethylformamide (5 Ml), was added EDCI (142 mg, 0.7 mmol). After the mixture was stirred at 70° C. for 12 h, the mixture was cooled to room temperature, and ethyl acetate and saturated sodium bicarbonate solution were added. The aqueous layer was extracted with ethyl acetate and the combined organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give N-methyl-6-(4-nitrophenyl)-1H-indazole-3-carboxamide (70 mg).

reactant | 6-(4-nitrophenyl)-1H-indazole-3-carboxylic acid | 0.5 mmol, 140 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1)C(=O)O | C14H9N3O4
reactant | methyl amine hydrochloride | 0.6 mmol, 45 mg | Cl.CN
reactant | HOBt | 0.6 mmol, 80 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 2 mmol | C(C)N(CC)CC | C6H15N
reactant | EDCI | 0.7 mmol, 142 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-methyl-6-(4-nitrophenyl)-1H-indazole-3-carboxamide | 70 mg | CNC(=O)C1=NNC2=CC(=CC=C12)C1=CC=C(C=C1)[N+](=O)[O-] | C15H12N4O3
